US04150139
3-Methylthio-11-phenyl-11H-s-triazolo[3,4-b][3]benzazepine was treated with potassium hydroxide and the reaction mixture was treated as described. This procedure provided 2,11-dihydro-11-phenyl-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Colorless needles (as recrystallized from methanol), m.p. 258°-260° C.

reactant | 3-Methylthio-11-phenyl-11H-s-triazolo[3,4-b][3]benzazepine | CSC1=NN=C2C(C3=C(C=CN21)C=CC=C3)C3=CC=CC=C3 | C18H15N3S
reactant | potassium hydroxide | [OH-].[K+]
product | 2,11-dihydro-11-phenyl-3H-s-triazolo[3,4-b][3]benzazepin-3-one | C1(=CC=CC=C1)C1C=2N(C=CC3=C1C=CC=C3)C(NN2)=O | C17H13N3O
